US04859229
using 6-ethyl-3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-2,4 (1H,3H)-pyrimidinedione and dimethyl sulphate there is obtained 6-ethyl-3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-1-methyl-2,4(1H,3H)-pyrimidinedione, m.p. 72°-74° C.;

reactant | 6-ethyl-3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-2,4 (1H,3H)-pyrimidinedione | C(C)C1=CC(N(C(N1)=O)C1=C(C=C(C(=C1)OC(C)C)Cl)F)=O | C15H16ClFN2O3
reactant | dimethyl sulphate | S(=O)(=O)(OC)OC | C2H6O4S
product | 6-ethyl-3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-1-methyl-2,4(1H,3H)-pyrimidinedione | C(C)C1=CC(N(C(N1C)=O)C1=C(C=C(C(=C1)OC(C)C)Cl)F)=O | C16H18ClFN2O3
